US07459263B2
Finally, dibutyl 4,4′-terphenyl dicarboxylate (CS-13) was prepared. A mixture of 1,4-benzene diboronic acid (1.00 g, 6.0 mmol), butyl 4-iodobenzoate (4.04 g, 13 mmol), sodium carbonate (1.92 g, 18 mmol), 1,2-dimethoxyethane (25 mL), ethanol (7 mL), and water (10 mL) was deaerated by sparing with nitrogen for 10 min. Dichlorobis(triphenylphosphine)-palladium(II) (0.085 g, 0.12 mmol) was added, and the sparging was continued for 5 min. The stirred reaction mixture was held at reflux under nitrogen for 44 h and then cooled to ambient. Dichloromethane (100 mL) and water (100 mL) were added. The organic layer was separated dried (MgSO4), passed through a short column of silica gel to remove residual catalyst, and concentrated to deposit a crude product. The product was purified by column chromatography followed by recrystallization from heptane and then from acetonitrile. The product was obtained as white needles, mass: 1.45 g (56% of theory). 1H NMR (CDCl3): δ 1.00 (t, 6H), 1.5 (m, 4H), 1.8 (m, 4H), 4.36 (q, 4H), 7.75 (m, 8H), 8.13 (d, 4H).

reactant | 1,4-benzene diboronic acid | 6.0 mmol, 1.00 g | C1(=CC=C(C=C1)B(O)O)B(O)O | C6H8B2O4
reactant | butyl 4-iodobenzoate | 13 mmol, 4.04 g | IC1=CC=C(C(=O)OCCCC)C=C1 | C11H13IO2
reactant | sodium carbonate | 18 mmol, 1.92 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 0.12 mmol, 0.085 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 100 mL | O | H2O
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | dibutyl 4,4′-terphenyl dicarboxylate | C1(=CC=C(C=C1)C(=O)OCCCC)C=1C(=CC(=CC1)C(=O)OCCCC)C1=CC=CC=C1 | C28H30O4
